US03978097
To 115 g (1.56 mols) of sec-butanol are added over the course of 15 minutes, 2.0 g (0.087 mol) of finely cut sodium. The mixture is stirred at 60° for 2 hours in order to dissolve the sodium completely. After the addition of 21.2 g (0.087 mol) of 1,5-dibromo-3-methylpentane, the mixture is stirred at 60°, over the source of 18 hours. The precipitated sodium bromide is filtered off and the excess sec-butanol is distilled off. The residue is taken up in 300 cc of ether, washed three times with water and once with saturated sodium chloride solution, dried over magnesium sulphate and evaporated at 40° /20 mm Hg. After chromatography of the residue on silica gel with hexane/ethyl acetate (98,5:1,5) and subsequent fractional distillation in a high vacuum, 1-bromo-5-sec-butoxy-3-methyl-pentane is obtained as a colourless liquid. B.P.: 104° - 106°/13 mm Hg

reactant | sec-butanol | 1.56 mols, 115 g | C(C)(CC)O | C4H10O
reactant | sodium | [Na] | Na
reactant | 1,5-dibromo-3-methylpentane | 0.087 mol, 21.2 g | BrCCC(CCBr)C | C6H12Br2
product | 1-bromo-5-sec-butoxy-3-methyl-pentane | BrCCC(CCOC(C)CC)C | C10H21BrO
